US07423159B2
N′-[1-(4-Fluorophenyl)propylidene]-4-methylbenzenesulfonohydrazide (12.0 g) was dissolved in thionyl chloride (30 ml), and the mixture was stirred at room temperature for 1 hr. The reaction mixture was poured into a 1N aqueous sodium hydroxide solution. The precipitated solids were collected by filtration, washed with water and dried with airflow to give 4-(4-fluorophenyl)-5-methyl-1,2,3-thiadiazole (6.19 g, 65%) as a yellow solid.

reactant | N′-[1-(4-Fluorophenyl)propylidene]-4-methylbenzenesulfonohydrazide | 12.0 g | FC1=CC=C(C=C1)C(CC)=NNS(=O)(=O)C1=CC=C(C=C1)C | C16H17FN2O2S
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | thionyl chloride | 30 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-(4-fluorophenyl)-5-methyl-1,2,3-thiadiazole | 6.19 g, 65% | FC1=CC=C(C=C1)C=1N=NSC1C | C9H7FN2S
